US08357688B2
To a solution of 1.05 g of the yellow solid having methyl 4-[2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-1-yl]-2-methyl-5-nitrobenzoate obtained as a low-polarity compound in 15 mL of methanol was added 0.40 g of 10% palladium on carbon (50% wet), followed by stirring overnight under a hydrogen atmosphere. The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (normal hexane/ethyl acetate) to obtain 0.62 g of methyl 5-amino-4-[2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-1-yl]-2-methylbenzoate as a yellow oily substance.

reactant | methyl 4-[2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-1-yl]-2-methyl-5-nitrobenzoate | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)C=1N(C=CN1)C1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C24H35N3O5Si
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | methyl 5-amino-4-[2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-1-yl]-2-methylbenzoate | 0.62 g | NC=1C(=CC(=C(C(=O)OC)C1)C)N1C(=NC=C1)[C@@H]1CC[C@@H](CC1)O[Si](C)(C)C(C)(C)C | C24H37N3O3Si
